US08283353B2
4′-{[4-(5-methyl-6,13-dioxadispiro[3.2.5.2]tetradec-10-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
A mixture of 4′-{[5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (12.67 g), 1-[1-(hydroxymethyl)cyclobutyl]ethanol (4.26 g), p-toluenesulfonic acid hydrate (0.57 g) and toluene (300 mL) was refluxed with heating for 5 hr while dehydrating with a Dean-Stark trap. The reaction mixture was cooled to room temperature, and diluted with ethyl acetate, and the mixture was washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: hexane/ethyl acetate=80/20→40/60 (volume ratio)] to give the title compound as a colorless amorphous compound (13.64 g, 87%).

reactant | 4′-{[5-oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 12.67 g | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2CCC(CC2)=O | C28H27N5O2
reactant | 1-[1-(hydroxymethyl)cyclobutyl]ethanol | 4.26 g | OCC1(CCC1)C(C)O | C7H14O2
reactant | p-toluenesulfonic acid hydrate | 0.57 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | toluene | 300 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4′-{[4-(5-methyl-6,13-dioxadispiro[3.2.5.2]tetradec-10-yl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | CC1C2(CCC2)COC2(O1)CCC(CC2)N2C=1N(C(=C(C2=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)CCC)N=CN1 | C35H39N5O3
